US05302720
A mixture of 2-amino-6-methylbiphenyl hydrochloride (2.98 g), N,N-dimethylcyanamide (1.46 g) and m-cresol (25 ml) was heated at 90°-95° C. for 6 hours to give N,N-dimethyl-N'-(6-methyl-2-biphenylyl)guanidine (m.p. 181°-182° C.) which was recrystallised from hexane.

reactant | 2-amino-6-methylbiphenyl hydrochloride | 2.98 g | Cl.NC1=C(C(=CC=C1)C)C1=CC=CC=C1
reactant | N,N-dimethylcyanamide | 1.46 g | CN(C#N)C | C3H6N2
reactant | m-cresol | 25 ml | C1=C(C=CC=C1O)C | C7H8O
product | N,N-dimethyl-N'-(6-methyl-2-biphenylyl)guanidine | CN(C(=N)NC1=C(C(=CC=C1)C)C1=CC=CC=C1)C | C16H19N3
